US07294622B2
a. Methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-(2,5-difluorophenyl)prop-2-enoate (1a)
A stirred solution of N-(benzyloxycarbonyl)-α-phosphonoglycine trimethyl ester (6.1 g) and 2,5-difluorobenzaldehyde (2.0 g) in dry dichloromethane (60 mL), was treated dropwise with a solution of DBU (2.5 mL) in dichloromethane (20 mL). The mixture was stirred at room temperature for 2 h, then was concentrated to approximately 20 mL and partitioned between ethyl acetate (150 mL) and 1N hydrochloric acid (50 mL). The organic extract was collected, consecutively washed with 1N hydrochloric acid, water, saturated aqueous sodium bicarbonate, and brine, dried (sodium sulfate), filtered and evaporated. The crude product (6.5 g) was purified by flash chromatography (20% ethyl acetate/hexanes) to yield the title compound (4.0 g, 82%). 1H NMR (300 MHz, CDCl3) δ 3.85 (s, 3H), 5.10, (s, 2H), 6.60 (bs, 1H), 6.9-7.1 (m, 2H), 7.21 (m, 1H), 7.2-7.3 (m, 6H). MS APCI, m/z=348 (M+1). LC/MS: 2.53 min.

reactant | N-(benzyloxycarbonyl)-α-phosphonoglycine trimethyl ester | 6.1 g | COC(=O)C(NC(=O)OCC1=CC=CC=C1)P(=O)(OC)OC | C13H18NO7P
reactant | 2,5-difluorobenzaldehyde | 2.0 g | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | DBU | 2.5 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-(2,5-difluorophenyl)prop-2-enoate | 4.0 g, 82% | C(C1=CC=CC=C1)OC(=O)N\C(\C(=O)OC)=C/C1=C(C=CC(=C1)F)F | C18H15F2NO4
